US08809369B2
A mixture of 4-aminobenzoic acid ethyl ester (16.5 g, 100 mmol), 5-bromo-pyridine-3-carbaldehyde (18.6 g, 100 mmol) and ytterbium(III) triflate hydrate (12.4 g, 20 mmol) in acetonitrile (350 mL) was cooled to 0° C. in a sealed reaction bottle. Then a cooled solution of isobutene (28 g, 500 mmol) was added into. The reaction mixture was heated to 90° C. and stirred for 12 h. The solvent was removed in vacuo and the residue was purified on flash silica gel chromatography (silica gel from QingDao, 200-300 mesh, glass column from Shanghai SD company) (20% ethyl acetate/hexanes) to afford 2-(5-bromo-pyridin-3-yl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid ethyl ester (16 g, 41%) as a white solid: MS (ESI) M+1=389.0.

reactant | 4-aminobenzoic acid ethyl ester | 100 mmol, 16.5 g | C(C)OC(C1=CC=C(C=C1)N)=O | C9H11NO2
reactant | 5-bromo-pyridine-3-carbaldehyde | 100 mmol, 18.6 g | BrC=1C=C(C=NC1)C=O | C6H4BrNO
reactant | ytterbium(III) triflate hydrate | 20 mmol, 12.4 g | O.[O-]S(=O)(=O)C(F)(F)F.[Yb+3].[O-]S(=O)(=O)C(F)(F)F.[O-]S(=O)(=O)C(F)(F)F
reactant | isobutene | 500 mmol, 28 g | C=C(C)C | C4H8
solvent | acetonitrile | 350 mL | C(C)#N | C2H3N
product | 2-(5-bromo-pyridin-3-yl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid ethyl ester | 16 g, 41% | C(C)OC(=O)C=1C=C2C(CC(NC2=CC1)C=1C=NC=C(C1)Br)(C)C | C19H21BrN2O2
